US05500417
3-Methylbenzylphosphonic acid, dimethyl ester
Following the procedure of Compound 11, 3-methylbenzyl bromide is reacted with trimethylphosphite.

reactant | 3-methylbenzyl bromide | CC=1C=C(CBr)C=CC1 | C8H9Br
reactant | trimethylphosphite | COP(OC)OC | C3H9O3P
product | 3-Methylbenzylphosphonic acid, dimethyl ester | CC=1C=C(CP(OC)(OC)=O)C=CC1 | C10H15O3P
